US05387714
In a stream of argon gas, 2-bromotoluene (8.55 g, 0.05 mol) in dry THF (60 ml) was dropwise added to a mixture of magnesium (2.43 g, 0.1 mol) and dibromoethane (0.1 ml) in dry THF (10 ml) at 50° to 60° C. for 13 minutes. The reaction mixture was stirred at 60° to 65° C. for 1 hour, diluted with dry THF (30 ml) and cooled below 20° C. This mixture was dropwise added to oxalyl chloride (7.62 g, 0.06 mol) in dry ether (150 ml) below -50° C. over 8 minutes, followed by stirring at -75° C. for 1 hour, and filtered in a stream of argon gas at room temperature. The filtrate was concentrated under reduced pressure at room temperature. The precipitated crystals were filtered in a stream of argon gas and washed with dry ether. The filtrate and the wash liquid were combined together and the solvent was distilled off under reduced pressure to give crude 2-(2-methylphenyl)glyoxyloyl chloride (8.75 g; yield, 95.8%) as a pale brown oil.

reactant | 2-bromotoluene | 0.05 mol, 8.55 g | BrC1=C(C=CC=C1)C | C7H7Br
reactant | magnesium | 0.1 mol, 2.43 g | [Mg] | Mg
reactant | dibromoethane | 0.1 ml | BrC(C)Br | C2H4Br2
reactant | oxalyl chloride | 0.06 mol, 7.62 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2-(2-methylphenyl)glyoxyloyl chloride | 8.75 g, 95.8% | CC1=C(C=CC=C1)C(C(=O)Cl)=O | C9H7ClO2
